US04146721
6.0 grams 3-benzoyl-levulinic acid ethyl ester, 2.7 grams 2-hydrazino-pyridine and 25 milliliters glacial acetic acid were mixed and the mixture was heated to the boiling temperature under reflux for 3 hours. The reaction mixture was worked up by a procedure analogous to that described above. 5.0 grams 3-methyl-5-phenyl-1-(2-pyridyl)-pyrazol-4-acetic acid ethyl ester, melting at 89°-90° C., were obtained, representing a yield of 64%.

reactant | 3-benzoyl-levulinic acid ethyl ester | 6.0 grams | C(C)OC(CC(C(=O)C)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | 2-hydrazino-pyridine | 2.7 grams | N(N)C1=NC=CC=C1 | C5H7N3
solvent | acetic acid | 25 milliliters | C(C)(=O)O | C2H4O2
product | 3-methyl-5-phenyl-1-(2-pyridyl)-pyrazol-4-acetic acid ethyl ester | 5.0 grams, yield of 64% | C(C)OC(CC=1C(=NN(C1C1=CC=CC=C1)C1=NC=CC=C1)C)=O | C19H19N3O2
